US04120690
A reaction flask was charged with 14.3 g (0.059 mole) of N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)acetoacetamide dissolved in 230 ml of acetic acid. With efficient stirring, there was added dropwise 9.4 g (0.059 mole) of bromine dissolved in 55 ml of acetic acid while controlling the temperature at 20°-25°. The reaction solution was allowed to stir overnight at ambient temperature. On the following morning a sample of the precipitated solids was withdrawn. By N.M.R. analysis, the material was determined to be the corresponding 2-bromoacetoacetamide, m.p. 128°-30°. The reaction mixture was heated at 75°-80° for twelve hours. The solution was cooled at 20° and the precipitated solid was collected on a vacuum filter. After washing the filter cake with water, the material was stirred with aqueous sodium bicarbonate. The product was isolated and dried. There was obtained 8.8 g (46.6%) of authentic N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide, m.p. 144°-46°. N.M.R. (CDCl3) ∂ 1.4 [C(CH3)3 ], 4.4 (CH2), 6.3 (CH, enol).

reactant | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)acetoacetamide | 0.059 mole, 14.3 g | C(C)(C)(C)C1=NN=C(S1)NC(CC(=O)C)=O | C10H15N3O2S
reactant | bromine | 0.059 mole, 9.4 g | BrBr | Br2
solvent | acetic acid | 230 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-4-bromoacetoacetamide | 8.8 g, 46.6% | C(C)(C)(C)C1=NN=C(S1)NC(CC(=O)CBr)=O | C10H14BrN3O2S
